US05643931
60% Sodium hydride (0.41 g) and 1.71 g of benzyloxyurea were added to 20 ml of dimethylformamide and the mixture was stirred at 80° C. for 7.5 hours. 1,4-Bis(4-chloromethylphenoxy)butane (1.74 g) was added to the reaction mixture at room temperature and the mixture was stirred at 95° C. for 0.5 hour. The reaction product was cooled to room temperature, poured into ice water, mixed with 1N hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride aqueous solution in that order and dried over anhydrous magnesium sulfate and then the solvent was evaporated under a reduced pressure. The resulting crude product was washed with ethyl acetate to obtain 1.94 g of 1,4-bis[4-[(1-benzyloxyureido)methyl]phenoxy]butane.

reactant | Sodium hydride | 0.41 g | [H-].[Na+]
reactant | benzyloxyurea | 1.71 g | C(C1=CC=CC=C1)ONC(=O)N | C8H10N2O2
reactant | 1,4-Bis(4-chloromethylphenoxy)butane | 1.74 g | ClCC1=CC=C(OCCCCOC2=CC=C(C=C2)CCl)C=C1 | C18H20Cl2O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,4-bis[4-[(1-benzyloxyureido)methyl]phenoxy]butane | 1.94 g | C(C1=CC=CC=C1)ON(C(=O)N)CC1=CC=C(OCCCCOC2=CC=C(C=C2)CN(C(=O)N)OCC2=CC=CC=C2)C=C1 | C34H38N4O6
